US06107482
1-N-Propylphthalimido-1H-pyrrole-3,4-dicarboxylate diethyl ester
A solution of diethyl pyrrole-3,4-dicarboxylate (39 g, 0.185 mol) in THF (1600 mL) was treated with NaH (60%, 7.6 g, 0.19 mol). The reaction mixture was heated to reflux for 1 hour. The reaction was then cooled to 30° C. and N-(3-bromopropyl)phthalimide (52 g, 0.19 mol) was added. The reaction mixture was heated to reflux for 1 hour, cooled, filtered, and concentrated in vacuo. The resultant gum was partitioned between ETOAC/H2O and extracted with EtOAC (2×300 mL). The organic layer was dried (MgSO4), filtered and concentrated in vacuo. The resultant solid was recrystallized from EtOAC to give the title compound 68 g (92%) (mp 100-101° C.). 1H NMR (DMSO) δ 1.24 (t, 3H, CH), 2.06 (m, 2H, CH3), 3.57 (t, 2H, CH2), 4.14 (m, 4H, CH2), 7.49 (s, 2H, ArH), 7.86 (m, 4H, ArH).

reactant | diethyl pyrrole-3,4-dicarboxylate | 0.185 mol, 39 g | N1C=C(C(=C1)C(=O)OCC)C(=O)OCC | C10H13NO4
reactant | NaH | 0.19 mol, 7.6 g | [H-].[Na+]
reactant | N-(3-bromopropyl)phthalimide | 0.19 mol, 52 g | BrCCCN1C(C=2C(C1=O)=CC=CC2)=O | C11H10BrNO2
reactant | THF | 1600 mL | C1CCOC1 | C4H8O
product | 1-N-Propylphthalimido-1H-pyrrole-3,4-dicarboxylate diethyl ester | 68 g, 92% | C(C)OC(=O)C1=C(N(C=C1C(=O)OCC)CCC)N1C(C=2C(C1=O)=CC=CC2)=O | C21H22N2O6
